US08664217B2
4-Pyridinecarbaldehyde (0.64 ml, 6.8 mmol) was added to a methanol solution (10 ml) of 7-(3-aminopropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (2.18 g, 6.8 mmol), and stirred under a nitrogen atmosphere at room temperature for 1.5 hours. The reaction mixture was cooled in an ice water bath, and sodium borohydride (257 mg, 6.8 mmol) was added thereto at 0° C. The mixture was then stirred at room temperature overnight. Water was added to the reaction mixture, and extraction with ethyl acetate was performed. The organic layer was washed with water and a saturated sodium chloride aqueous solution, in this order, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=9:1→3:2). The purified product was concentrated under reduced pressure to thereby obtain 2.35 g (yield: 84%) of 1-ethyl-3,3,5-trimethyl-7-{3-[(pyridin-4-ylmethyl)amino]propoxy}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione as a pale yellow oil.

reactant | 4-Pyridinecarbaldehyde | 6.8 mmol, 0.64 ml | N1=CC=C(C=C1)C=O | C6H5NO
reactant | methanol | 10 ml | CO | CH4O
reactant | 7-(3-aminopropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 6.8 mmol, 2.18 g | NCCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C17H25N3O3
reactant | sodium borohydride | 6.8 mmol, 257 mg | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 1-ethyl-3,3,5-trimethyl-7-{3-[(pyridin-4-ylmethyl)amino]propoxy}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 2.35 g, yield: 84% | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCNCC2=CC=NC=C2 | C23H30N4O3
